US05166394
2. Fmoc-D-Hyp-Gly-OtBu
1.4 g of Fmoc-D-Hyp-OH are dissolved in 25 ml of dry acetonitrile and then 1.05 g of H-Gly-OtBu and 0.445 g of N-hydroxypyridone are added. Then 1.31 g of O-[(cyano(ethoxycarbonyl)methylidene)amino]-1,1,3,3-tetramethyluronium tetrafluoroborate (TOTU) are introduced in/portions within 10 minutes, as well as 1.03 ml of diisopropylethylamine in 15 ml of DMF dropwise over the course of 15 minutes. After 1 h, the mixture is concentrated, the residue is taken up in ethyl acetate and extraction with sodium chloride solution is carried out. The organic phase is dried over sodium sulfate and evaporated to dryness. The remaining oil is taken up in a little ether and added dropwise to petroleum ether while stirring. The flocculent precipitate is filtered off with suction and dried in vacuo.

reactant | Fmoc-D-Hyp-OH | 1.4 g | N1([C@@H](C(=O)O)C[C@H](O)C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C20H19NO5
reactant | H-Gly-OtBu | 1.05 g | NCC(=O)OC(C)(C)C | C6H13NO2
reactant | N-hydroxypyridone | 0.445 g | ON1C(C=CC=C1)=O | C5H5NO2
reactant | O-[(cyano(ethoxycarbonyl)methylidene)amino]-1,1,3,3-tetramethyluronium tetrafluoroborate | 1.31 g | F[B-](F)(F)F.C(#N)C(C(=O)OCC)=NOC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 1.03 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Fmoc-D-Hyp-Gly-OtBu | N1([C@@H](C(=O)NCC(=O)OC(C)(C)C)C[C@H](O)C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C26H30N2O6
